US05914338
4-(4-Azatricyclo[2.2.1.02,6 ]hept-1-yl)-1,2,5-thiadiazole-3-thiol
A solution of 1-(3-chloro-1,2,5-thiadiazol-4-yl)-4-azatricyclo[2.2.1.02,6 ]heptane (3.0 g, 14 mmol) and sodium hydrogensulfide, monohydrate (3,14 g, 42 mmol) in dry DMF (80 ml) was stirred at room temperature under nitrogen for 1 h. The solvent was evaporated. Water was added and pH adjusted by addition of 4N HCl (pH 9). The mixture was cooled on ice and the product isolated by filtration to give 1,7 g (58%) of the title compound. M.p. 205-207° C. (Compound 26).

reactant | 1-(3-chloro-1,2,5-thiadiazol-4-yl)-4-azatricyclo[2.2.1.02,6 ]heptane | 14 mmol, 3.0 g | ClC1=NSN=C1C12C3CN(CC31)C2 | C8H8ClN3S
reactant | sodium hydrogensulfide, monohydrate | 42 mmol, 3,14 g | O.S.[Na]
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 4-(4-Azatricyclo[2.2.1.02,6 ]hept-1-yl)-1,2,5-thiadiazole-3-thiol | 1,7 g, 58% | C12(C3CN(CC31)C2)C=2C(=NSN2)S | C8H9N3S2
